US05464865
To a solution of 2-naphthol (14.4 g) in DMF (100 ml) is added sodium hydride (4.2 g of 60% dispersion). When gas evolution ceases, 4-fluorobenzaldehyde (11.5 ml) is added, and the reaction mixture is stirred at 130° for 48 hr. The mixture is cooled, poured onto crushed ice, and the product extracted with ether. Chromatography of the concentrated extract with 3:2 dichloromethane-hexane provides 4-(2-naphthyloxy)benzaldehyde as a pale yellow solid (10.25 g, 41%).

reactant | 2-naphthol | 14.4 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | sodium hydride | 4.2 g | [H-].[Na+]
reactant | 4-fluorobenzaldehyde | 11.5 ml | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-(2-naphthyloxy)benzaldehyde | 10.25 g, 41% | C1=C(C=CC2=CC=CC=C12)OC1=CC=C(C=O)C=C1 | C17H12O2
